data/nitro/train.csv
rxn,smiles,ea
186,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[H:11])[c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])(\[C:23]([H:24])([H:25])[H:26])[H:27]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])([C:23]([H:24])([H:25])[H:26])[H:27],-13.710192825944498
992,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[c:22]1[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]1[H:32])([H:33])[H:34]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[c:22]1[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]1[H:32])([H:33])[H:34],-13.914263299493198
408,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[C:22]([H:23])([H:24])[H:25])(\[Br:26])[C:27]([H:28])([H:29])[H:30]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[C:22]([H:23])([H:24])[H:25])([Br:26])[C:27]([H:28])([H:29])[H:30],-3.2785104704833516
504,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[Br:22])([Br:23])[Br:24]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[Br:22])([Br:23])[Br:24],-4.091750199530913
G6,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18])[C:19]([H:20])([H:21])[H:22])([H:23])[H:24]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18])[C:19]([H:20])([H:21])[H:22])([H:23])[H:24],-6.639285550983881
268,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[c:17]1[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]1[H:27])([Cl:28])[Cl:29]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[c:17]1[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]1[H:27])([Cl:28])[Cl:29],-10.85375463994951
276,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[H:17])([Cl:18])[Cl:19]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[H:17])([Cl:18])[Cl:19],-9.280362485232532
C8,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[H:11])[H:12])(\[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[C:19]([H:20])([H:21])[C:22]([H:23])([H:24])[C:25]([H:26])([H:27])[H:28])[H:29]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[H:12])([C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[C:19]([H:20])([H:21])[C:22]([H:23])([H:24])[C:25]([H:26])([H:27])[H:28])[H:29],-8.733595282900518
721,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18])([c:19]1[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]([H:27])[c:28]1[H:29])[c:30]1[c:31]([H:32])[c:33]([H:34])[c:35]([H:36])[c:37]([H:38])[c:39]1[H:40]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18])([c:19]1[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]([H:27])[c:28]1[H:29])[c:30]1[c:31]([H:32])[c:33]([H:34])[c:35]([H:36])[c:37]([H:38])[c:39]1[H:40],-0.7859926392579606
965,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[C:24]([H:25])([H:26])[H:27])([H:28])[H:29]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[C:24]([H:25])([H:26])[H:27])([H:28])[H:29],-14.262702995172376
167,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])(\[C:20]([H:21])([H:22])[H:23])[H:24]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])([C:20]([H:21])([H:22])[H:23])[H:24],-5.318650447352435
259,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([H:12])[H:13])[Br:14])([Cl:15])[Cl:16]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[Br:14])([Cl:15])[Cl:16],-12.96148366194767
